US05371101
In the same manner as in Reference Example 5, starting from 1.0 g of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 1.1 g of 4-(2-trifluoromethylphenyl)-3(2H,4H)-1,2,4-triazolone, 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-(2-trifluoromethylphenyl)-3(2H,4H)-1,2,4-triazolone (0.4 g) was obtained as a colorless powder.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.0 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 4-(2-trifluoromethylphenyl)-3(2H,4H)-1,2,4-triazolone | 1.1 g | FC(C1=C(C=CC=C1)N1C(NN=C1)=O)(F)F | C9H6F3N3O
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-(2-trifluoromethylphenyl)-3(2H,4H)-1,2,4-triazolone | 0.4 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=CN(C2=O)C2=C(C=CC=C2)C(F)(F)F)CO1 | C19H14F5N3O2
